US05885986
A solution of 0.81 g (0.002 mol) of (S)-8-chloro-1-(4-chloromethyl-thiazol-2-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one in 5 ml of tetrahydrofuran was treated with 3 ml (0.024 mol) of diallylamine and stirred at 50° for 8 hrs. All volatiles were removed in a water-jet vacuum and the residue was chromatographed over silica gel with methylene chloride/methanol 98:2 as the eluent. After recrystallization from diethyl ether there was obtained 0.52 g (55%) of (S)-8-chloro-1-(4-diallylaminomethyl-thiazol-2-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one in the form of white crystals; m.p. 186°-187° and [α]D20 =-67.5° (MeOH, c=1%).

reactant | (S)-8-chloro-1-(4-chloromethyl-thiazol-2-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 0.002 mol, 0.81 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C=3SC=C(N3)CCl)CCC1)=O | C18H14Cl2N4OS
reactant | diallylamine | 0.024 mol, 3 ml | C(C=C)NCC=C | C6H11N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (S)-8-chloro-1-(4-diallylaminomethyl-thiazol-2-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 0.52 g, 55% | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C=3SC=C(N3)CN(CC=C)CC=C)CCC1)=O | C24H24ClN5OS
